US06515003B1
To a solution of 6-(2,6-dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene (340 mg, 1.05 mmol) in dichloromethane (10 mL) was added pyridinium tribromide (335 mg, 1.05 mmol) and the reaction mixture stirred at room temperature overnight. The solution was diluted with ethyl acetate and washed successively with water and brine, dried over anhydrous magnesium sulfate, filtered and evaporated. The residue was purified on silica gel (eluent: ethyl acetate/hexane, 0.5:9.5) to give 0.24 g (57%) of 6-(5-bromo-2,6-dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene. 1H NMR (500 MHz; CDCl3): δ1.28 (s, 6H); 1.31 (s, 6H); 1.70 (s, 4H); 3.35 (s, 3H); 3.73 (s, 3H); 7.14 (dd, J1=1.5 Hz, J2=8.5 Hz, 1H); 7.15 (dd, J1=2.0 Hz, J2=8.5 Hz, 1H); 7.30 (d, J=8.0 Hz, 1H); 7.36 (d, J=1.5 Hz, 1H); 7.45 (d, J=8.0 Hz, 1H), 7.95 (br, 1H).

reactant | 6-(2,6-dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene | 1.05 mmol, 340 mg | COC1=C(C(=CC=C1)OC)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C | C22H28O2
reactant | pyridinium tribromide | 1.05 mmol, 335 mg | [Br-].[Br-].[Br-].[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1.[NH+]1=CC=CC=C1
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 6-(5-bromo-2,6-dimethoxyphenyl)-1,1,4,4-tetramethy-1,2,3,4-tetrahydronaphthlene | 0.24 g, 57% | BrC=1C=CC(=C(C1OC)C=1C=C2C(CCC(C2=CC1)(C)C)(C)C)OC | C22H27BrO2
